US05098613
7-{4-[-(Hydroxyimino)ethyl]-2-ethyl-5-hydroxyphenoxy}-2,2-dimethylheptanoic acid
A mixture of 7.1 g of 7-(4-acetyl-2-ethyl-5-hydroxyphenoxy)-2,2-dimethylheptanoic acid, 0.149 g of hydroxylamine hydrochloride, 0.176 g of sodium acetate, and 50 ml of methanol were heated at reflux for 48 hours. The reaction mixture was allowed to cool to room temperature and the resulting solid collected by filtration. The solid was crystallized from methylene chloride/hexane to provide 0.32 g of the desired titled product.

reactant | 7-(4-acetyl-2-ethyl-5-hydroxyphenoxy)-2,2-dimethylheptanoic acid | 7.1 g | C(C)(=O)C1=CC(=C(OCCCCCC(C(=O)O)(C)C)C=C1O)CC | C19H28O5
reactant | hydroxylamine hydrochloride | 0.149 g | Cl.NO
reactant | sodium acetate | 0.176 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 7-{4-[-(Hydroxyimino)ethyl]-2-ethyl-5-hydroxyphenoxy}-2,2-dimethylheptanoic acid | 0.32 g | ON=CCC1=CC(=C(OCCCCCC(C(=O)O)(C)C)C=C1O)CC | C19H29NO5
